US09034866B2
Synthesis of 3-((dimethylamino)methyl)-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 10-bromo-3-((dimethylamino)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide (prepared similarly as described in the synthesis of 10-bromo-3-(pyrrolidin-1-ylmethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide replacing pyrrolidine with dimethylamine) was reacted with 2-methylbut-3-yn-2-ol to give the titled compound as a grey solid (41 mg, 34%).

reactant | 10-bromo-3-((dimethylamino)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN(C)C)C1 | C15H17BrN4O2
reactant | 10-bromo-3-(pyrrolidin-1-ylmethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3CCCC3)C1 | C17H19BrN4O2
reactant | dimethylamine | CNC | C2H7N
reactant | 2-methylbut-3-yn-2-ol | CC(C)(C#C)O | C5H8O
product | 3-((dimethylamino)methyl)-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 41 mg, 34% | CN(C)CC1=C(N=C2N1CCOC1=C2C=C(C=C1)C#CC(C)(C)O)C(=O)N | C20H24N4O3
